US07494992B2
Preparation 143: (1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-8a-hydroxy-5-{2-[(1H-imidazol-1-ylcarbonyl)oxy]-1-methylethyl}-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1, 2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To (1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-8a-hydroxy-5-[2-hydroxy-1-methylethyl]-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate(Preparation 140, 0.30 g, 0.52 mmol) in dichloromethane was added 1,1′-carbonyldiimidazole (0.92 g, 0.57 mmol) and the reaction mixture was stirred for 18 h. The reaction mixture was diluted with water and extracted with dichloromethane. The organic extracts were washed with brine, dried and then concentrated in vacuo. The crude product was purified by flash chromatography eluting with ethyl acetate:hexane (2:1) to give the title compound (0.16 g, 46%).

reactant | (1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-8a-hydroxy-5-[2-hydroxy-1-methylethyl]-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.52 mmol, 0.30 g | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(CO)C)C)OC(C)=O)O | C29H39ClN2O8
reactant | 1,1′-carbonyldiimidazole | 0.57 mmol, 0.92 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-8a-hydroxy-5-{2-[(1H-imidazol-1-ylcarbonyl)oxy]-1-methylethyl}-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1, 2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.16 g, 46% | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(COC(=O)N3C=NC=C3)C)C)OC(C)=O)O | C33H41ClN4O9
